datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C[C@@H]1CC[C@@H]2CCC[N:10]21.Cc1ccc2c(c1)c(N1CCOCC1)c1c([n+:21]2[H:20])CCC1>>C[C@@H]1CC[C@@H]2CCC[N+:10]21[H:20].Cc1ccc2c(c1)c(N1CCOCC1)c1c([n:21]2)CCC1 10=20;20,21=21",
"C1C[N+:21](CC2CO2)([H:20])CCO1.Nc1cccc(B(O)[O-:10])c1>>C1C[N:21](CC2CO2)CCO1.Nc1cccc(B(O)[O:10][H:20])c1 10=20;20,21=21",
"CCC(=O)/C=N/[O-:10].c1ccc2c([O:21][H:20])cc[nH+]c2c1>>CCC(=O)/C=N/[O:10][H:20].c1ccc2c([O-:21])cc[nH+]c2c1 10=20;20,21=21",
"C=C[C@H]1C[N:10]2CC[C@@H]1C[C@@H]2[C@@H](O)c1ccnc2ccccc12.Nc1nc2nc[n:21]([H:20])c2c([O-])[nH+]1>>C=C[C@H]1C[N+:10]2([H:20])CC[C@@H]1C[C@@H]2[C@@H](O)c1ccnc2ccccc12.Nc1nc2nc[n-:21]c2c([O-])[nH+]1 10=20;20,21=21",
"C[n+]1cc([O:21][H:20])ccn1.O=C(C1CCCCO1)[O-:10]>>C[n+]1cc([O-:21])ccn1.O=C(C1CCCCO1)[O:10][H:20] 10=20;20,21=21",
"CCC1(c2ccccc2)NC(=O)[N-:10]C1=O.Cc1ccc(S(=O)(=O)[N:21](CCC(=O)[O-])[H:20])cc1>>CCC1(c2ccccc2)NC(=O)[N:10]([H:20])C1=O.Cc1ccc(S(=O)(=O)[N-:21]CCC(=O)[O-])cc1 10=20;20,21=21",
"CC(C)(C)C1=CC(=C2C=CC=CC=C2)C=C(C(C)(C)C)C1=[O:10].C[n+]1cccc(C=C(c2ccccc2)[O:21][H:20])c1>>CC(C)(C)C1=CC(=C2C=CC=CC=C2)C=C(C(C)(C)C)C1=[O+:10][H:20].C[n+]1cccc(C=C(c2ccccc2)[O-:21])c1 10=20;20,21=21",
"O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20].c1c(CN2CCNCC[NH:10]CC2)n[nH]c1CN1CCNCCNCC1>>O=[N+]([O-])[CH-:21]SC1=CC=CC=C1.c1c(CN2CCNCC[NH+:10]([H:20])CC2)n[nH]c1CN1CCNCCNCC1 10=20;20,21=21",
"CC[NH+:21](c1cccc2ccccc12)[H:20].Clc1cc(Cl)c([O-:10])c(C[NH+]2CCCCC2)c1Cl>>CC[NH:21]c1cccc2ccccc12.Clc1cc(Cl)c([O:10][H:20])c(C[NH+]2CCCCC2)c1Cl 10=20;20,21=21",
"CC[NH+]1CCCC1CNC(=O)c1c(OC)cccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC[NH+]1CCCC1CNC(=O)c1c(OC)cccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C#CCCC[NH2:10].CN(C)C1CC(C)(C)[NH+:21]([H:20])C(C)(C)C1>>C#CCCC[NH2+:10][H:20].CN(C)C1CC(C)(C)[NH:21]C(C)(C)C1 10=20;20,21=21",
"CN(C)C(=S)NCC(=O)[O-:10].O=C(c1cccc(Br)c1)[O:21][H:20]>>CN(C)C(=S)NCC(=O)[O:10][H:20].O=C(c1cccc(Br)c1)[O-:21] 10=20;20,21=21",
"CCCCC#CC(=O)[O:21][H:20].Cn1c(-c2ccccn2)[n:10]c2ccccc21>>CCCCC#CC(=O)[O-:21].Cn1c(-c2ccccn2)[n+:10]([H:20])c2ccccc21 10=20;20,21=21",
"C[C:21](C)(C1=CC=CC([N+](=O)[O-])=C1)[H:20].Clc1ccc(C(Nc2ccccc2)[O-:10])cc1>>C[C-:21](C)C1=CC=CC([N+](=O)[O-])=C1.Clc1ccc(C(Nc2ccccc2)[O:10][H:20])cc1 10=20;20,21=21",
"CN(C)/C=[N:10]\c1cccc([N+](=O)[O-])c1.O=[N+]([O-])c1c(Cl)nc[n:21]1[H:20]>>CN(C)/C=[N+:10](\c1cccc([N+](=O)[O-])c1)[H:20].O=[N+]([O-])c1c(Cl)nc[n-:21]1 10=20;20,21=21",
"Cc1cc([C@@H](N)CO)c(O)c([C@H](CO)[NH2:10])c1.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>Cc1cc([C@@H](N)CO)c(O)c([C@H](CO)[NH2+:10][H:20])c1.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"NCC[NH:10]CCCO.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>NCC[NH+:10](CCCO)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"COc1ccc(CC(C)[NH2+:21][H:20])cc1.Nc1nc(NCCO)nc(NCCO)[n:10]1>>COc1ccc(CC(C)[NH2:21])cc1.Nc1nc(NCCO)nc(NCCO)[n+:10]1[H:20] 10=20;20,21=21",
"C=C[C@]1(O)C[C@H](C)[NH+:21]([H:20])[C@@H]2CCCC[C@H]21.CCCC[N:10]1CCCCC1C>>C=C[C@]1(O)C[C@H](C)[NH:21][C@@H]2CCCC[C@H]21.CCCC[N+:10]1([H:20])CCCCC1C 10=20;20,21=21",
"C[N:10](C)CC(=O)[O-].Cc1cc(C)c(C)c([O:21][H:20])c1>>C[N+:10](C)(CC(=O)[O-])[H:20].Cc1cc(C)c(C)c([O-:21])c1 10=20;20,21=21",
"CCc1c(O)n(C)[n:10]c1C.CO[N+:21](C)(C)[H:20]>>CCc1c(O)n(C)[n+:10]([H:20])c1C.CO[N:21](C)C 10=20;20,21=21",
"CC[NH+](CC)CCOCC[N+:21](C)(CC)[H:20].Cc1cc([O-:10])n(C2CC[NH+](C)CC2)n1>>CC[NH+](CC)CCOCC[N:21](C)CC.Cc1cc([O:10][H:20])n(C2CC[NH+](C)CC2)n1 10=20;20,21=21",
"CCC[O-:10].COC1=CC([C:21](C)([N+](=O)[O-])[H:20])=CC=C1>>CCC[O:10][H:20].COC1=CC([C-:21](C)[N+](=O)[O-])=CC=C1 10=20;20,21=21",
"CC(C)[N-:10]C(C)C.O=[Se](c1ccc2ccccc2c1)[O:21][H:20]>>CC(C)[N:10](C(C)C)[H:20].O=[Se](c1ccc2ccccc2c1)[O-:21] 10=20;20,21=21",
"CCOC(=O)COc1ccc(C(=O)c2ccc([O-:10])c(C[NH3+])c2)cc1.Nc1cc[n+:21]([H:20])cc1F>>CCOC(=O)COc1ccc(C(=O)c2ccc([O:10][H:20])c(C[NH3+])c2)cc1.Nc1cc[n:21]cc1F 10=20;20,21=21",
"CCOc1cccc([NH2+:21][H:20])c1.Cc1ncc(CO)c(C)c1[O-:10]>>CCOc1cccc([NH2:21])c1.Cc1ncc(CO)c(C)c1[O:10][H:20] 10=20;20,21=21",
"Cc1cc2nc3ccc(N(C)C)cc3[n:10]c2cc1N.Nc1ccc(P(=O)(OCC(F)(F)F)[N:21](c2nccs2)[H:20])cc1>>Cc1cc2nc3ccc(N(C)C)cc3[n+:10]([H:20])c2cc1N.Nc1ccc(P(=O)(OCC(F)(F)F)[N-:21]c2nccs2)cc1 10=20;20,21=21",
"COc1ccc2c(c1)[NH+:21]([H:20])CC[NH2+]2.C[N+](C)(C)c1ccccc1[O-:10]>>COc1ccc2c(c1)[NH:21]CC[NH2+]2.C[N+](C)(C)c1ccccc1[O:10][H:20] 10=20;20,21=21",
"CCOc1c(C#N)c[n+:21]([H:20])c2ccccc12.COP(=O)([O-])[N-:10]S(=O)(=O)c1ccccc1>>CCOc1c(C#N)c[n:21]c2ccccc12.COP(=O)([O-])[N:10](S(=O)(=O)c1ccccc1)[H:20] 10=20;20,21=21",
"CCCCCCCCCc1c([O-:10])n[nH]c1-c1ccccc1.Cc1cc(C)cc(/C(c2ccccc2)=[NH+:21]/[H:20])c1>>CCCCCCCCCc1c([O:10][H:20])n[nH]c1-c1ccccc1.Cc1cc(C)cc(C(c2ccccc2)=[NH:21])c1 10=20;20,21=21",
"CC(=O)n1ccnc1Cc1[nH]cc[n+:21]1[H:20].Nc1c(C(=O)[O-])[n:10]cn1[C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O>>CC(=O)n1ccnc1Cc1[nH]cc[n:21]1.Nc1c(C(=O)[O-])[n+:10]([H:20])cn1[C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O 10=20;20,21=21",
